US08492378B2
2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid
A suspension of 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzaldehyde (0.693 g, 2.15 mmol) and oxone (registered trade mark) (1.99 g, 3.23 mmol) in N,N-dimethylformamide (25 mL) was stirred overnight at room temperature. The reaction mixture was poured into water, and the precipitate was collected by filtration, dried and recrystallized from tetrahydrofuran to give the title compound (555 mg, yield 76%) as colorless crystals.

reactant | 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzaldehyde | 2.15 mmol, 0.693 g | FC1=C(C=O)C=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H11FN2O3
reactant | oxone | 3.23 mmol, 1.99 g | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid | 555 mg, yield 76% | FC1=C(C(=O)O)C=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H11FN2O4
